US06949552B2
74 mg of 1-[2-(3-Carbamoylphenyl)-2-(4-isopropylpiperazino)ethyl]-4-[4-(2-methoxynaphthalen-1-yl)butyl]piperazine was dissolved in 4 ml of methanol, and 1 ml of 4M hydrogen chloride/ethyl acetate solution was added. The solution was concentrated under reduced pressure, and the resulting solid was washed with ethyl acetate to give 70 mg of 1-[2-(3-carbamoylphenyl)-2-(4-isopropylpiperazino)ethyl]-4-[4-(2-methoxynaphthalen-1-yl)butyl]piperazine tetrahydrochoride.

reactant | 1-[2-(3-Carbamoylphenyl)-2-(4-isopropylpiperazino)ethyl]-4-[4-(2-methoxynaphthalen-1-yl)butyl]piperazine | 74 mg | C(N)(=O)C=1C=C(C=CC1)C(CN1CCN(CC1)CCCCC1=C(C=CC2=CC=CC=C12)OC)N1CCN(CC1)C(C)C | C35H49N5O2
reactant | hydrogen chloride ethyl acetate | 4M, 1 ml | Cl.C(C)(=O)OCC
solvent | methanol | 4 ml | CO | CH4O
product | 1-[2-(3-carbamoylphenyl)-2-(4-isopropylpiperazino)ethyl]-4-[4-(2-methoxynaphthalen-1-yl)butyl]piperazine tetrahydrochoride | 70 mg | Cl.Cl.Cl.Cl.C(N)(=O)C=1C=C(C=CC1)C(CN1CCN(CC1)CCCCC1=C(C=CC2=CC=CC=C12)OC)N1CCN(CC1)C(C)C | InChI=1S/C35H49N5O2.4ClH/c1-27(2)39-21-23-40(24-22-39)33(29-10-8-11-30(25-29)35(36)41)26-38-19-17-37(18-20-38)16-7-6-13-32-31-12-5-4-9-28(31)14-15-34(32)42-3;;;;/h4-5,8-12,14-15,25,27,33H,6-7,13,16-24,26H2,1-3H3,(H2,36,41);4*1H
